US07709471B2
4-Amino-N-(1-methyl-4-piperidyl)benzamide
p-Aminobenozoic acid (137 mg, 1 mmol), 4-amino-N-methylpiperidine (114 mg, 1 mmol) and DIPEA (522 uL, 3 mmol) were dissolved in DMA (5 mL). HATU (570 mg, 1.5 mmol) in DMA (5 mL) was added and the reaction stirred at ambient temperature for 2 h. The volatiles were removed under reduced pressure and NaHCO3 (50 mL, sat. aq.) was added. The resulting precipitate was removed by filtration and the aqueous phase neutralised with HCL (2N). The reaction mixture was then loaded onto an SCX-2 cartridge washing with copious quantities of water. The crude product was the eluted from the SCX-2 cartridge with NH3 (60 mL, 7M in MeOH). Purification by column chromatography (SiO2, eluent: 10% NH3 [7M in MeOH] in DCM) afforded the title compound (167 mg, 72%) as a solid.

reactant | 4-amino-N-methylpiperidine | 1 mmol, 114 mg | NC1CCN(CC1)C | C6H14N2
reactant | DIPEA | 3 mmol, 522 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 mmol, 570 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-Amino-N-(1-methyl-4-piperidyl)benzamide | 167 mg, 72% | NC1=CC=C(C(=O)NC2CCN(CC2)C)C=C1 | C13H19N3O
